US04011333
5-(3,7,11,15-Tetramethylhexadecyloxy)-2-thiophenecarboxylic acid
When in Example 3, 1-bromo-3,7,11,15-tetramethylhexadecane is substituted for 1-bromohexadecane, 2-(3,7,11,15-tetramethylhexadecyloxy)thiophene is obtained. A solution of 38.1 g (0.1 mole) of 2-(3,7,11,15-tetramethylhexadecyloxy)-thiophene in 50 ml of anhydrous ether is added over a 4 hour period to 6.0 g of sodium amalgam in 100 ml of hydrous ether at reflux temperature (36°-39° C) under slight nitrogen pressure. The mixture is refluxed an additional 2 hours, then cooled to room temperature and carbonated by adding freshly crushed dry ice after which 20 ml of ethanol is added dropwise followed by the addition of 50 ml of water. The aqueous solution is separated from the ether layer, filtered and acidified with hydrochloric acid to precipitate 5-(3,7,11,15-tetramethylhexadecyloxy)-2-thiophenecarboxylic acid.

reactant | 2-(3,7,11,15-tetramethylhexadecyloxy)-thiophene | 0.1 mole, 38.1 g | CC(CCOC=1SC=CC1)CCCC(CCCC(CCCC(C)C)C)C | C24H44OS
reactant | dry ice | C(=O)=O | CO2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | water | 50 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
catalyst | sodium amalgam | 6.0 g | [Na].[Hg]
product | 5-(3,7,11,15-Tetramethylhexadecyloxy)-2-thiophenecarboxylic acid | CC(CCOC1=CC=C(S1)C(=O)O)CCCC(CCCC(CCCC(C)C)C)C | C25H44O3S
